US05866576
This example illustrates a synthesis of 3-Methyl-7-methylpivaloyl-1-(8,9-oxidononyl)xanthine (inventive compound no. 1409). A mixture of 3-methylxanthine (Aldrich, 1.00 g, 6.0 mmol), sodium hydride (145 mg, 6.0 mmol) and dimethyl sulfoxide (20 mL) was stirred until homogeneous (0.5 hours). Chloromethylpivalate (865mL, 904 mg, 6.0 mmol) was added and the reaction stirred for 18 hours. The reaction mixture was poured into water (70 mL) and then extracted with 25% ethanol/dichloromethane (4×60 mL). The combined organic extracts were dried over sodium sulfate and evaporated under vacuum to a volume of 40 mL. This solution was cooled in icewater, whereupon a thick white precipitate was formed. The solid was filtered off under suction and dried under vacuum to yield 1.43 g (90% yield) 3-methyl-7-(methylpivaloyl)xanthine (inventive compound no. 1404).

reactant | 3-methylxanthine | 6.0 mmol, 1.00 g | CN1C(NC(C=2NC=NC12)=O)=O | C6H6N4O2
reactant | sodium hydride | 6.0 mmol, 145 mg | [H-].[Na+]
reactant | dimethyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
reactant | Chloromethylpivalate | 6.0 mmol, 865mL, 904 mg | ClCCC(C(=O)[O-])(C)C
solvent | water | 70 mL | O | H2O
product | 3-methyl-7-(methylpivaloyl)xanthine | 1.43 g, 90% yield | CN1C(NC(C=2N(C=NC12)C(C(CC)(C)C)=O)=O)=O | C12H16N4O3
